US06900209B2
Step 6: Methanesulfonic acid 6-[3-(5-Methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]-phthalazin-6-yloxymethyl]pyridin-3-ylmethyl ester
Methanesulfonyl chloride (1.07 ml, 13.9 mmol) was added to a stirred suspension of {6-[3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazin-6-yloxymethyl]pyridin-3-yl}methanol (2.78 mmol), Et3N (1.94 ml, 13.9 mmol) in CH2Cl2 (100 ml) under nitrogen. The reaction mixture was stirred overnight and then diluted with CH2Cl2. The resulting solution was washed with H2O (100 ml), 1 N HCl (100 ml), NaHCO3 (sat., 100 ml) and brine (100 ml). The solution was then dried MgSO4) and concentrated under reduced pressure. The resultant mesylate was used without further purification.

reactant | Methanesulfonyl chloride | 13.9 mmol, 1.07 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | {6-[3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazin-6-yloxymethyl]pyridin-3-yl}methanol | 2.78 mmol | CC1=CC(=NO1)C1=NN=C2N1N=C(C1=CC=CC=C21)OCC2=CC=C(C=N2)CO | C20H16N6O3
reactant | Et3N | 13.9 mmol, 1.94 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 6-[3-(5-Methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]-phthalazin-6-yloxymethyl]pyridin-3-ylmethyl ester | CC1=CC(=NO1)C1=NN=C2N1N=C(C1=CC=CC=C21)OCC2=CC=C(C=N2)COS(=O)(=O)C | C21H18N6O5S
